US09403835B2
Step 2: (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-((S)-piperidin-3-yloxy)-phenyl]-methanone
A mixture of (S)-3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester (270 mg; 0.51 mmol; 1 eq.) and TFA (2 mL) in DCM (2 mL) was stirred at room temperature for 1 hour then concentrated in vacuo. The residue was taken up in water, the pH made basic with 5M NaOH and extracted with DCM (2×). The combined organic layer was dried over magnesium sulfate and concentrated in vacuo to afford the title compound (176 mg, 81%) as white foam. 1H NMR (CDCl3) δ 7.41-7.33 (m, 2H), 7.08-6.98 (m, 2H), 5.02-5.01 (m, 2H), 4.67 (br s, 2H), 4.33 (br s, 1H), 3.11-3.06 (m, 1H), 2.91 (s, 2H), 2.85 (s, 1H), 2.84-2.72 (m, 3H), 2.69 (s, 1H), 2.62 (s, 2H), 1.98-1.91 (m, 1H), 1.80-1.69 (m, 3H), 1.50-1.40 (m, 1H). HPLC (max plot) 98.9%, Rt 2.85 min. UPLC/MS: (MS+) 426.4 ([M+H]+).

reactant | (S)-3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester | 0.51 mmol, 270 mg, 1 eq. | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC1=C(C=CC=C1)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | C27H32ClN5O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-((S)-piperidin-3-yloxy)-phenyl]-methanone | 176 mg, 81% | ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=CC=C3)O[C@@H]3CNCCC3)C | C22H24ClN5O2
